US07488789B2
(1) Synthesis of 2-tert-butyl-6,6-diphenyl fulvene
In a 300 ml three-necked flask equipped with a magnetic stirrer and three-way cock was thoroughly purged with nitrogen, 4.75 g of 3-tert-butyl-cyclopentadiene (38.9 mmol) was dissolved in 100 ml of dehydrated tetrahydrofuran in a nitrogen atmosphere. To the solution, 26 ml of n-butyl lithium/hexane solution (1.58M: 41.1 mmol) was gradually added dropwise in an ice bath and stirred at room temperature over night. To the reaction solution, 21 ml of hexamethyl phosphoramide (121 mmol) dried with molecular sieves 4A was added in the ice bath and further stirred at room temperature for 1 hr. To the solution, a solution prepared by dissolving 10.2 g of benzophenone (56.0 mmol) to 30 ml of dehydrated tetrahydrofuran was gradually added dropwise in an ice bath and stirred at room temperature 1 day. To the resulting reaction mixture, 100 ml of a hydrochloric acid aqueous solution (5%) was added. Thereafter, hexane was added to the mixed solution to separate an organic phase. The organic phase was washed with water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give dark-brown oil. The oil was purified with a column chromatography using 400 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure, and thereby the aimed compound was obtained in an amount of 4.42 g (15.4 mmol) as an orange solid (yield: 40%).

reactant | 3-tert-butyl-cyclopentadiene | 38.9 mmol, 4.75 g | C(C)(C)(C)C=1C=CCC1 | C9H14
reactant | n-butyl lithium hexane | 41.1 mmol, 1.58M, 26 ml | C(CCC)[Li].CCCCCC
reactant | hexamethyl phosphoramide | 121 mmol, 21 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | benzophenone | 56.0 mmol, 10.2 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-tert-butyl-6,6-diphenyl fulvene | C(C)(C)(C)C1=CC(C=C1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22
